US05811512
AF. 5-Phthalimido-1-pentanol (III-33)
A solution of 5-amino-1-pentanol (5.00 g, 48.5 mmol) in benzene (150 ml) was treated with N-carboethoxyphthalimide (11.0 g, 50.2 mmol) and stirred at room temperature for 5 h. Concentration in vacuo and flash chromatography (25% ethyl acetate/petroleum ether) yielded III-33 (9.6 mg, 84% yield) as a clear, colorless oil: UV (9.65×10-4M, acetonitrile) λmax 292.0 (ε212), 242.4 (226) nm; IR (CHCl3) 3460 (br), 2940 (s), 2860 (s), 1770 (s), 1710 (s), 1610 (s), 1470 (s), 1440 (s), 1400 (s), 1370 (s), 1190 (m), 1170 (m), 1130 (m), 1050 (s), 960 (m), 890 (m), 875 (m), 790 (m), 720 (s) cm-1 ; 1H NMR (500 MHz, CDCl3) δ7.72-7.70 (m, 2 H), 3.69 (t, J=7.2 Hz, 1 H), 3.64 (t, J=6.5 Hz, 1 H), 2.17 (br s, 1 H), 1.74-1.59 (m, 2 H), 1.46-1.40 (m, 1 H); 13C NMR (125 MHz, CDCl3) δ169.39, 133.78, 131.96, 123.05, 62.34, 37.74, 32.03, 28.22, 22.93; high resolution mass spectrum (Cl, NH3) m/z 234.1108 [(M+H)+ ; calcd for C13 H15NO3 : 234.1129].

reactant | 5-amino-1-pentanol | 48.5 mmol, 5.00 g | NCCCCCO | C5H13NO
reactant | N-carboethoxyphthalimide | 50.2 mmol, 11.0 g | C(=O)(OCC)N1C(C=2C(C1=O)=CC=CC2)=O | C11H9NO4
reactant | acetonitrile | C(C)#N | C2H3N
reactant | NH3 | N | H3N
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 5-Phthalimido-1-pentanol | 84% yield | C1(C=2C(C(N1CCCCCO)=O)=CC=CC2)=O | C13H15NO3
